US04841045
4,4-Dimethyl-5-t-butyldimethylsilyloxyvaleraldehyde
To a cooled (-78° C.) solution of 4.5 g (18.6 mmol) of 4,4-dimethyl-5-t-butyldimethylsilyloxyvaleronitrile in 36 mL of dry CH2Cl2 was added dropwise, over 30 min., 20.4 mL (20.4 mmol; 1.1 eq) of a 1.0 M solution of diisobutyl-aluminum hydride in CH2Cl2. After stirring for 2 h at -78° C., the cooling bath was removed and the solution allowed to warm to 0° C. To the crude (0° C.) reaction mixture was added 50-60 mL of ethyl ether, followed by the cautious addition of 10% HCl, until the mixture became strongly acidic (pH=1-2). Separation of the layers and three extractions of the aqueous phase with 100 mL ether, drying over MgSO4 and concentrating the combined organic layers gave 3.6 g (79%) of the title compound as a faint yellow oil, sufficiently pure to be used in the next step. TLC: (Silica) Rf 0.28 (CH2 /Cl2 /pentane 3:7), detection with Purpald.

reactant | 4,4-dimethyl-5-t-butyldimethylsilyloxyvaleronitrile | 18.6 mmol, 4.5 g | CC(CCC#N)(CO[Si](C)(C)C(C)(C)C)C | C13H27NOSi
reactant | diisobutyl-aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl ether | 50-60 mL | C(C)OCC | C4H10O
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 36 mL | C(Cl)Cl | CH2Cl2
product | 4,4-Dimethyl-5-t-butyldimethylsilyloxyvaleraldehyde | 3.6 g, 79% | CC(CCC=O)(CO[Si](C)(C)C(C)(C)C)C | C13H28O2Si
